US03996043
2-(4-chloro-6-ethylamino-s-triazin-2-yl-amino)-2-methylpropionitrile - Bladex 80 W - 48 mg.
For the tank mix method of application, 3 ml. of the Atrazine stock solution (A) was combined with 5 ml. of the antidote solution (B) and 5 ml. of Bladex stock solution (A) was combined with 5 ml. of the antidote solution (B). Application was then by the pre-plant incorporation or pre-emergence surface techniques. For pre-plant incorporation, the mixed or combined stock solutions were injected into the soil during incorporation in a 5 gallon rotary mixer. For pre-emergence surface application, the same combination of stock solutions was spray applied to the soil surface after seeding using an atomizer.

reactant | Atrazine | CCNC1=NC(=NC(=N1)Cl)NC(C)C | C8H14ClN5
reactant | Bladex | CCNC1=NC(=NC(=N1)Cl)NC(C)(C)C#N | C9H13ClN6
product | 2-(4-chloro-6-ethylamino-s-triazin-2-yl-amino)-2-methylpropionitrile Bladex 80 W | ClC1=NC(=NC(=N1)NCC)NC(C#N)(C)C.CCNC1=NC(=NC(=N1)Cl)NC(C)(C)C#N | 2C9H13ClN6
